### PR TITLE
[Merged by Bors] - feat(Asymptotics): define `IsBigOTVS`

### PR DESCRIPTION
**Pull request by urkud**
- Turn `IsLittleOTVS` into a 1-field `structure`. We may want to replace the definition with "the ratio of `egauge`s tends to zero". In `ENNReal`, it's the right definition.
- Define `IsBigOTVS`, prove basic API lemmas.
- Prove lemmas about `IsLittleOTVS` in (indexed) products.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 1]
```diff
@@ -72,15 +83,36 @@ where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
...
-    ∀ᶠ x in l, egauge 𝕜 U (f x) ≤ ε * egauge 𝕜 V (g x)
+@[mk_iff]
+structure IsLittleOTVS (l : Filter α) (f : α → E) (g : α → F) : Prop where
+  exists_eventuallyLE_mul : ∀ U ∈ 𝓝 (0 : E), ∃ V ∈ 𝓝 (0 : F), ∀ ε ≠ (0 : ℝ≥0),
+    (fun x ↦ egauge 𝕜 U (f x)) ≤ᶠ[l] (fun x ↦ ε * egauge 𝕜 V (g x))
 
 @[inherit_doc]
 notation:100 f " =o[" 𝕜 ";" l "] " g:100 => IsLittleOTVS 𝕜 l f g
 
+/-- `f =O[𝕜;l] g` (`IsLittleOTVS 𝕜 l f g`) is a generalization of `f =O[l] g` (`IsBigO l f g`)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Asymptotics/TVS.lean:94]:
```suggestion
/-- `f =O[𝕜;l] g` (`IsBigOTVS 𝕜 l f g`) is a generalization of `f =O[l] g` (`IsBigO l f g`)
```

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 2]
```diff
@@ -72,15 +83,36 @@ where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
...
+we say that $f = O(g)$ if for any neighborhood of zero `U` in the codomain of `f`
+there exists a neighborhood of zero `V` in the codomain of `g`
+such that $\operatorname{gauge}_{K, U} (f(x)) = O(\operatorname{gauge}_{K, V} (g(x)))$,
+where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
+
+We use an `ENNReal`-valued function `egauge` for the gauge,
+so we unfold the definition of big o instead of reusing it. -/
+@[mk_iff]
+structure IsBigOTVS (l : Filter α) (f : α → E) (g : α → F) : Prop where
+  exists_eventuallyLE_mul : ∀ U ∈ 𝓝 (0 : E), ∃ V ∈ 𝓝 (0 : F), ∃ C : ℝ≥0,
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean:108]: I think that you can always assume `C = 1` by rescaling `V`. Let me check today.

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 3]
```diff
@@ -113,101 +160,273 @@ theorem IsLittleOTVS.congr (h : f₁ =o[𝕜;l] g₁) (hf : ∀ x, f₁ x = f₂
...
 lemma IsLittleOTVS.zero (g : α → F) (l : Filter α) : (0 : α → E) =o[𝕜;l] g := by
-  intros U hU
-  simpa [egauge_zero_right _ (Filter.nonempty_of_mem hU)] using ⟨univ, by simp⟩
+  refine ⟨fun U hU ↦ ?_⟩
+  use univ
+  simp [egauge_zero_right _ (Filter.nonempty_of_mem hU), EventuallyLE]
 
 lemma isLittleOTVS_insert [TopologicalSpace α] {x : α} {s : Set α} (h : f x = 0) :
-    f =o[𝕜;(𝓝[insert x s] x)] g ↔ f =o[𝕜;(𝓝[s] x)] g := by
+    f =o[𝕜; 𝓝[insert x s] x] g ↔ f =o[𝕜;(𝓝[s] x)] g := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Asymptotics/TVS.lean:307]: I don't think I agree with adding these spaces, as they're not present in the infoview

Comment (eric-wieser) [reply Mathlib/Analysis/Asymptotics/TVS.lean:307]: Unless you've decided the notation should _always_ use a space, in which case you should probably make a standalone PR that makes that change to the `notation` and cleans up all the uses of it.

Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean:307]: OK, I'll open another PR for this. I think that we should put spaces after punctuation.

Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean:307]: Opened #24425

Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean]: I've merged `origin/staging` and pushed before I remembered that it triggers a bug in github browser. I'll push some 1-line change once #24425 is merged to make github compare to `master`.

Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean]: Done

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 4]
```diff
@@ -9,41 +9,41 @@ import Mathlib.Analysis.Seminorm
...
 where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
 
 In a normed space, we can use balls of positive radius as both `U` and `V`,
 thus reducing the definition to the classical one.
 
 This frees the user from having to chose a canonical norm, at the expense of having to pick a
-specific base ring.
+specific base field.
 This is exactly the tradeoff we want in `HasFDerivAtFilter`,
 as there the base ring is already chosen,
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:36]:
```suggestion
as there the base field is already chosen,
```

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 5]
```diff
@@ -72,15 +83,34 @@ where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
...
+    (fun x ↦ egauge 𝕜 U (f x)) ≤ᶠ[l] (fun x ↦ ε * egauge 𝕜 V (g x))
 
 @[inherit_doc]
 notation:100 f " =o[" 𝕜 "; " l "] " g:100 => IsLittleOTVS 𝕜 l f g
 
+/-- `f =O[𝕜; l] g` (`IsBigOTVS 𝕜 l f g`) is a generalization of `f =O[l] g` (`IsBigO l f g`)
+that works in topological `𝕜`-vector spaces.
+
+Given two functions `f` and `g` taking values in topological vector spaces
+over a normed field `K`,
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:98]:
```suggestion
over a normed field `𝕜`,
```

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 6]
```diff
@@ -113,75 +160,151 @@ theorem IsLittleOTVS.congr (h : f₁ =o[𝕜; l] g₁) (hf : ∀ x, f₁ x = f
...
+  simpa using hV 1 one_ne_zero
+
+theorem IsBigOTVS.trans {k : α → G} (hfg : f =O[𝕜; l] g) (hgk : g =O[𝕜; l] k) : f =O[𝕜; l] k := by
+  refine ⟨fun U hU₀ ↦ ?_⟩
+  obtain ⟨V, hV₀, hV⟩ := hfg.1 U hU₀
+  obtain ⟨W, hW₀, hW⟩ := hgk.1 V hV₀
+  refine ⟨W, hW₀, ?_⟩
+  filter_upwards [hV, hW] with x hx₁ hx₂ using hx₁.trans hx₂
+
+instance instTransIsBigOTVSIsBigOTVS :
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:185]: Why do you register this instance by hand instead of putting `@[trans]` on the previous theorem?

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 7]
```diff
@@ -9,41 +9,41 @@ import Mathlib.Analysis.Seminorm
...
+(resp, $\operatorname{gauge}_{K, U} (f(x)) = O(\operatorname{gauge}_{K, V} (g(x)))$,
 where $\operatorname{gauge}_{K, U}(y) = \inf \{‖c‖ \mid y ∈ c • U\}$.
 
 In a normed space, we can use balls of positive radius as both `U` and `V`,
 thus reducing the definition to the classical one.
 
 This frees the user from having to chose a canonical norm, at the expense of having to pick a
-specific base ring.
+specific base field.
 This is exactly the tradeoff we want in `HasFDerivAtFilter`,
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:35]: The line ends are a little bit weird, could you reflow?

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 8]
```diff
@@ -53,13 +53,24 @@ until someone will need it (e.g., to prove properties of the Fréchet derivative
...
 
 open Set Filter Asymptotics Metric
 open scoped Topology Pointwise ENNReal NNReal
 
 namespace Asymptotics
 
+section Defs
+
+variable (𝕜 : Type*) {α E F : Type*}
+  [NNNorm 𝕜] [TopologicalSpace E] [TopologicalSpace F] [Zero E] [Zero F] [SMul 𝕜 E] [SMul 𝕜 F]
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:72]:
```suggestion
  [ENorm 𝕜] [TopologicalSpace E] [TopologicalSpace F] [Zero E] [Zero F] [SMul 𝕜 E] [SMul 𝕜 F]
```
That's enough for all the definitions, and possibly it opens other uses.

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 9]
```diff
@@ -113,75 +160,151 @@ theorem IsLittleOTVS.congr (h : f₁ =o[𝕜; l] g₁) (hf : ∀ x, f₁ x = f
...
   simp only [isLittleOTVS_iff_smallSets, ← forall_and, ← eventually_and, eventually_sup]
 
 lemma IsLittleOTVS.sup (hf₁ : f =o[𝕜; l₁] g) (hf₂ : f =o[𝕜; l₂] g) : f =o[𝕜; l₁ ⊔ l₂] g :=
   isLittleOTVS_sup.mpr ⟨hf₁, hf₂⟩
 
+lemma _root_.ContinuousLinearMap.isBigOTVS_id {l : Filter E} (f : E →L[𝕜] F) : f =O[𝕜; l] id :=
+  ⟨fun U hU ↦ ⟨f ⁻¹' U, (map_continuous f).tendsto' 0 0 (map_zero f) hU, .of_forall <|
+    (mapsTo_preimage f U).egauge_le 𝕜 f⟩⟩
+
+lemma _root_.ContinuousLinearMap.isBigOTVS_comp (g : E →L[𝕜] F) : (g <| f ·) =O[𝕜; l] f :=
```
Comment (sgouezel) [inline Mathlib/Analysis/Asymptotics/TVS.lean:297]:
```suggestion
lemma _root_.ContinuousLinearMap.isBigOTVS_comp (g : E →L[𝕜] F) : (g ∘ f) =O[𝕜; l] f :=
```
If you need the other version, please name it `fun_comp`.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/Analysis/Asymptotics/TVS.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean:186]: I tested, and `@[trans]` doesn't add a `Trans` instance. Also, I unfolded notation, because AFAIR, Lean doesn't alpha-reduce in these cases, which leads to worse discrimination tree keys.

**Comment by urkud** [comment]
bors merge
